US07414036B2
(4-Iodo-2-pyridyl)methanol
A solution of (4-iodo-2-pyridyl)methylacetate ((4-iodo-2-pyridyl)methylacetate) in 2.0 mL (MeOH/NaOH 2N 1:3) was stirred at room temperature for 40 minutes. The mixture was extracted with EtOAc, washed with NaCl sat., dried and evaporated, affording 245 mg of the title compound (100%) as a colourless oil. 1H NMR (CDCl3) δ 8.18 (d, 1H, J=4.1 Hz, H-6); 7.76 (s, 1H, H-3); 7.59 (d, 1H, J=4.9 Hz, H-5); 4.72 (s, 2H, CH2); 4.45 (bs, 1H, OH); 13C NMR (CDCl3) δ 161.2 (C-2), 149.3 (C-6), 132.1 (C-3), 130.5 (C-5), 106.9 (C-4), 64.3 (CH 2)

reactant | (4-iodo-2-pyridyl)methylacetate | IC1=CC(=NC=C1)COC(C)=O | C8H8INO2
reactant | MeOH NaOH | 2N | CO.[OH-].[Na+]
product | (4-Iodo-2-pyridyl)methanol | 245 mg, 100% | IC1=CC(=NC=C1)CO | C6H6INO
